US06495546B1
To a mixture of N-(3-hydroxymethyl-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)-N-[(2S)-3-phenoxy-2-(triethylsilyl-oxy)propyl]-tert-butoxycarbonylamine (1.93 g) and triethylamine (0.58 ml) in dichloromethane (40 ml) was added dropwise methanesulfonyl chloride (0.27 ml) under ice-cooling. After stirring at room temperature for 6 hours, the reaction mixture was washed successively with water, sodium bicarbonate solution, water and brine. The organic layer was dried over magnesium sulfate and evaporated in vacuo to afford crude N-[(2S)-3-phenoxy-2-(triethylsilyloxy)propyl]-N-(3-methylsulfonyloxymethyl-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl]-tert-butoxycarbonylamine (2.18 g) which was used without purification.

reactant | N-(3-hydroxymethyl-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)-N-[(2S)-3-phenoxy-2-(triethylsilyl-oxy)propyl]-tert-butoxycarbonylamine | 1.93 g | OCC1=CC2=C(CCCC(C2)N(C[C@@H](COC2=CC=CC=C2)O[Si](CC)(CC)CC)C(=O)OC(C)(C)C)C=C1 | C32H49NO5Si
reactant | triethylamine | 0.58 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.27 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | N-[(2S)-3-phenoxy-2-(triethylsilyloxy)propyl]-N-(3-methylsulfonyloxymethyl-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl]-tert-butoxycarbonylamine | 2.18 g | O(C1=CC=CC=C1)C[C@H](CN(C1CC2=C(CCC1)C=CC(=C2)COS(=O)(=O)C)C(=O)OC(C)(C)C)O[Si](CC)(CC)CC | C33H51NO7SSi
